US07964612B2
Step iv: Trifluoro-methanesulfonic acid 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester.
To a stirring mixture of a dichloromethane solution of 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-ol (13.39 g in 50 mL of dichloromethane) and triethylamine (11 mL) in additional dichloromethane (50 mL more, 100 mL total dichloromethane) at −78° C. under a nitrogen atmosphere was added triflic anhydride (13.3 mL) with a slow, steady stream via syringe over five minutes. The cold bath was removed and the mixture was allowed to warm gradually over one hour, thirty minutes to room temperature. The mixture was concentrated under reduced pressure and the concentrate was purified by flash silica chromatography. Elution with a gradient (100% heptane to 30% ethyl acetate in heptane over three column volumes, or 1800 mL, then 30% to 45% ethyl acetate over two additional column volumes, or 1200 mL) through a 400-g Analogix flash silica cartridge on the Biotage instrument afforded the title compound as a clear colorless oil (18.04 g). 1H-NMR (400 MHz, CDCl3) 7.68 (m, 1H), 7.59 (d, J=8.0 Hz, 1H), 7.50 (s, 1H), 7.07 (d, J=7.4 Hz, 1H), 2.56 (s, 3H), 2.07 (s, 3H); 19F-NMR (376 MHz, CDCl3) −74.12 (s, 3F); 13C-NMR (100 MHz, CDCl3) 157.9, 151.1, 141.3, 139.5, 139.0, 122.0, 118.6 (quartet, JC-F=321.0 Hz), 111.9, 108.7, 23.6, 7.3; MS (APCI+) m/z 322. Step v: 2-[4-Methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl]-thieno[3,2-c]pyridine. An oven-dried three-neck round-bottom flask equipped with reflux condenser and gas inlet valve was charged with thieno[3,2-c]pyridine-2-boronic acid trihydrogen phosphate (1.0 g), trifluoro-methanesulfonic acid 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester (1.16 g), potassium phosphate tribasic (2.3 g), 1,4-dioxane (30 mL), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane adduct (0.60 g), and 1,1′-bis(diphenylphosphino)ferrocene (0.40 g) and the stirring mixture was brought to reflux under a nitrogen atmosphere for 18 hours. The reaction mixture was diluted with ethyl acetate (250 mL) and the solution was treated with activated carbon and filtered through Celite. The filtrate was concentrated under reduced pressure and the concentrate was purified by silica gel chromatography. Elution through a 120 g RediSep flash silica cartridge on a Biotage system with 100% heptane to 100% ethyl acetate over 1800 mL followed by 100% ethyl acetate until material with the desired mass elutes afforded an oil (1.2 g); MS (APCI+) m/z 307 (MH+). The product was further purified by dissolving in acetonitrile (30 mL) and dividing into two equal portions. After filtration, the solutions were sequentially purified by prep HPLC (Waters prep HPLC system; Stationary phase: Waters DeltPak C18 5 └m, 100 Angstrom, 300×50 mm I.D., P/N 011801, WAT 011801, No. 330C09125W; Mobile phase 90:10 to 50:50 water-acetonitrile with 0.1% formic acid over 30 minutes). The combined fractions were concentrated under reduced pressure to an aqueous solution, removing the acetonitrile. The clear aqueous solution was treated with saturated aqueous potassium carbonate to give a cloudy white suspension. The suspension was allowed to stand at room temperature overnight. The solid white precipitate that had formed was collected by vacuum filtration and was dried in the vacuum oven (77° C.) overnight to afford the title compound as a white solid (0.506 g). melting point 157-158° C.

reactant | 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-ol | 50 mL, 13.39 g | CC1=C(N(N=C1)C1=NC(=CC=C1)C)O | C10H11N3O
reactant | triethylamine | 11 mL | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 13.3 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-methyl-2-(6-methyl-pyridin-2-yl)-2H-pyrazol-3-yl ester | 18.04 g | CC1=C(N(N=C1)C1=NC(=CC=C1)C)OS(=O)(=O)C(F)(F)F | C11H10F3N3O3S
